Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.1141833315300005
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.7675125855400002
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:9]([H:10])([H:11])[H:12],8.30374042445
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.92383389388
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11],-1.66730990699
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.0146505994
[C:1]#[C:2][O:3][C:4]#[C:5][H:6].[H:7]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7],-2.7919097197900005
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[O:3]=[C:4]([H:5])[H:6],0.00725070720091
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[H:7],4.0779581991
[H:1][C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:2][C:3]([H:4])([H:5])[O:6][H:7].[H:1],3.93118305809
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:4]=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.09189378908
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.00478540647
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][O:5][C:6]=[C:8]([H:9])[H:10].[H:7],5.13767606191
[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10],0.7874941400480001
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3],1.03946327604
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2][O:3][C:4][H:5],4.746176986559999
[C:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[C:1]=[O:2].[C:3]#[C:4][O:5][C:6]([H:7])[H:8],-1.76143172027
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],1.92666073709
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.17022614637
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.05017370865
[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.09265751893
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.1044552824599999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9]/[O:10][C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-3.15104105699
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:12][H:13]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13],-3.34849826326
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-1.75574795983
[H:1][C:2][O:3][C:4]#[C:5].[O:6]=[C:7][H:8]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8],-1.31672032829
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:13].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12],3.74885704455
[H:11].[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-3.7146400003699993
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-2.15063884084
